US07652051B2
Synthesis of 4-{4-[5-(4-trifluoromethoxy-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridine-2-carboxylic acid methylamide trifluoroacetic acid salt
4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (66.4 mg, 0.197 mmol) was dissolved in 2 mL of anhydrous DMF in a 5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (39.4 mg, 0.197 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 4-chloro-2-pyridinecarboxamide (33.7 mg, 0.197 mmol) was added, followed by anhydrous K2CO3 (27.3 mg, 0.197 mmol). Then the vial was capped and microwaved at 200° C. for 15 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (46.6 mg).

reactant | 4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 0.197 mmol, 66.4 mg | FC(OC1=CC=C(C=C1)NC=1NC(=NN1)C1=CC=C(C=C1)O)(F)F | C15H11F3N4O2
reactant | potassium bis(trimethylsilyl)amide | 0.197 mmol, 39.4 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro-2-pyridinecarboxamide | 0.197 mmol, 33.7 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | K2CO3 | 0.197 mmol, 27.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 4-{4-[5-(4-trifluoromethoxy-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridine-2-carboxylic acid methylamide trifluoroacetic acid salt | 46.6 mg | FC(C(=O)O)(F)F.CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)C1=NN=C(N1)NC1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C22H17F3N6O3.C2HF3O2/c1-26-20(32)18-12-17(10-11-27-18)33-15-6-2-13(3-7-15)19-29-21(31-30-19)28-14-4-8-16(9-5-14)34-22(23,24)25;3-2(4,5)1(6)7/h2-12H,1H3,(H,26,32)(H2,28,29,30,31);(H,6,7)
